US04851425
1-(4-Methoxyphenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid (Formula VI, R1 =4-methoxyphenyl, w=2) Refer to Chart A
A solution of 1-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid ethyl ester in methanol (50 ml) was heated at reflux temperature for one hour, cooled, concentrated in vacuo, diluted with water, and acidified. The precipitate was filtered to yield the title compound (0.360 g). An analytical sample (m.p. 233°-234° C.) was obtained from methylene chloride-hexane solution.

reactant | 1-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C=2CCCCC12)C1=CC=C(C=C1)OC | C17H20N2O3
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-Methoxyphenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid | 0.360 g | COC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(=O)O | C15H16N2O3
